US20010018525A1
Step 1 3-Bromo-3-formylphenyl-4-methoxymethoxybenzoic acid
To a suspension of 3-bromo-3-formylphenyl-4-methoxymethoxybenzoic acid ethyl ester (1.4 g, 3.56 mmol) in 10 mL MeOH/20 mL H2O was added solid KOH (220 mg, 3.91 mmol). The reaction mixture was refluxed for 3 hours then additional solid KOH (23 mg, 0.42 mmol) was added and the temperature of the reaction was lowered to ca 50 °C. after which point the reaction was stirred overnight. The workup of the reaction consisted of diluting with water and acidifying with 2N HCl to pH 1 then extracting with EtOAc (3×). The combined organic layers were dried over Na2SO4 then the solvent was removed in vacuo to give a beige solid. This solid was subjected to flash chromatography (50% EtOAc:50% Hexanes to 100% EtOAc) to give the desired acid as a beige solid plus a fraction that contained starting ester and desired acid. This fraction was rechromatographed to give more acid for a total yield of 920 mg, 70.7%. 1H NMR (CDCl3+DMSO-d6) δ2.91 (s, 3H); 4.67 (s, 2H); 5.2-6.6 (bs, 1H); 7.26 (t, J=8.18 Hz, 1H); 7.67 (d, J=8.18 Hz, 1H); 7.73 (d, J=8.18 Hz, 1H); 7.83-7.90 (m, 2H); 8.11 (d, J=1.64 Hz, 1H); 9.90 (s, 1H).

reactant | 3-bromo-3-formylphenyl-4-methoxymethoxybenzoic acid ethyl ester | 3.56 mmol, 1.4 g | C(C)OC(C1=C(C=C(C=C1)OCOC)C=1CC(C=CC1)(C=O)Br)=O | C18H19BrO5
reactant | KOH | 3.91 mmol, 220 mg | [OH-].[K+]
reactant | KOH | 0.42 mmol, 23 mg | [OH-].[K+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | MeOH | 10 mL | CO | CH4O
solvent | water | O | H2O
solvent | HCl | 2N | Cl | ClH
product | 3-Bromo-3-formylphenyl-4-methoxymethoxybenzoic acid | BrC1(CC(=CC=C1)C1=C(C(=O)O)C=CC(=C1)OCOC)C=O | C16H15BrO5
